US08835465B2
(R)-2-(6-Chloro-3-nitropyridin-2-ylamino)-2-(4-fluorophenyl)ethanol
To a mixture of 2,6-dichloro-3-nitropyridine (0.933 g, 4.83 mmol) and potassium carbonate (0.58 g, 4.19 mmol) in anhydrous acetonitrile (10 ml) was added (R)-2-amino-2-(4-fluoro phenyl)ethanol (1.00 g, 7.19 mmol) at 0° C. The resulting reaction mixture was stirred at 25° C. for 18 hours. The solid was removed by filtration and washed with EtOAc (20 ml). After evaporation of the solvent, the resulting residue was purified by column chromatography (hexane-EtOAc=5:1) to give the title compound as a yellow solid (0.77 g, 61%). 1H NMR (400 MHz) δ 8.96 (d, J=7.6 Hz, 1H), 8.46 (d, J=8.4 Hz, 1H), 7.45 (m, 2H), 7.15 (m, 2H), 6.81 (d, J=8.8 Hz, 1H), 5.27 (m, 2H), 3.80 (m, 2H).

reactant | 2,6-dichloro-3-nitropyridine | 4.83 mmol, 0.933 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | potassium carbonate | 4.19 mmol, 0.58 g | C([O-])([O-])=O.[K+].[K+]
reactant | (R)-2-amino-2-(4-fluoro phenyl)ethanol | 7.19 mmol, 1.00 g | N[C@@H](CO)C1=CC=C(C=C1)F | C8H10FNO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (R)-2-(6-Chloro-3-nitropyridin-2-ylamino)-2-(4-fluorophenyl)ethanol | 0.77 g, 61% | ClC1=CC=C(C(=N1)N[C@@H](CO)C1=CC=C(C=C1)F)[N+](=O)[O-] | C13H11ClFN3O3
